US07429659B2
(4-Isopropyl-piperazin-1-yl)-(2-piperidin-1-ylmethyl-thiazol-4-yl)-methanone.
2,2-Dimethyl-Propionic acid 4-(4-isopropyl-piperazine-1-carbonyl)-thiazol-2-ylmethyl ester. The crude product from Step A (6.42 g, 24.2 mmol), 1-isopropyl-piperazine dihydrochloride (5.36 g., 26.68 mmol) and 1-hydroxybenzotriazole (4.915 g., 36.38 mmol) were dissolved into a mixture of N-methylmorpholine (14.72 g., 101.20 mmol) and DCM (120 mL). The mixture was stirred for 30 min under nitrogen. 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (6.97 g, 36.4 mmol) was added, and the reaction mixture was stirred for 18 h at rt. The reaction was quenched by the addition of 1 M NaOH (25 mL), and was stirred for 1 h. The mixture was diluted with water and extracted with DCM (3×60 mL). The combined organic extracts were washed with H2O, dried over Na2SO4, filtered, and concentrated to yield dark brown crude oil (6.2 g). The crude product was purified on silica gel column using 30-50% acetone-DCM to give the title compound as a brown oil (3.9 g, 46%). 1H NMR (500 MHz, CDCl3): 7.89 (s, 1H), 5.38 (s, 2H), 3.90-3.84 (m, 2H), 3.81-3.75 (m, 2H), 2.75-2.69 (m, 1H), 2.62-2.50 (m, 4H), 1.27-1.23 (s, 9H), 1.05 (d, J=6.3, 6H).

reactant | 2,2-Dimethyl-Propionic acid 4-(4-isopropyl-piperazine-1-carbonyl)-thiazol-2-ylmethyl ester | C(C)(C)N1CCN(CC1)C(=O)C=1N=C(SC1)COC(C(C)(C)C)=O | C17H27N3O3S
reactant | 1-isopropyl-piperazine dihydrochloride | 26.68 mmol, 5.36 g | Cl.Cl.C(C)(C)N1CCNCC1
reactant | 1-hydroxybenzotriazole | 36.38 mmol, 4.915 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 101.20 mmol, 14.72 g | CN1CCOCC1 | C5H11NO
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 36.4 mmol, 6.97 g | Cl.CN(CCCN=C=NCC)C
solvent | DCM | 120 mL | C(Cl)Cl | CH2Cl2
product | (4-Isopropyl-piperazin-1-yl)-(2-piperidin-1-ylmethyl-thiazol-4-yl)-methanone | 3.9 g, 46% | C(C)(C)N1CCN(CC1)C(=O)C=1N=C(SC1)CN1CCCCC1 | C17H28N4OS
